* C:\Users\shane\Documents\GitHub\OpenHydro\0-10v_PCB\ltspice\pwm_test.asc
V1 N001 0 PULSE(0 10 0 0 0 0.75m 1m)
R1 N002 N001 10k
C1 N002 0 10µ
.tran 1
.backanno
.end
